US08293763B2
Step 2: 8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid
A suspension of 8-(4-cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (0.28 g, 0.86 mmol) and 1M NaOH (1.03 mL, 1.03 mmol) in IMS (5 mL) was heated to 65° C. for 5 hours. The reaction mixture was then cooled to room temperature and 1M HCl was added to adjust pH to 2. The precipitate formed was filtered off and dried in a drying pistol at 40° C. for 18 hours to afford the title compound as a cream solid (0.22 g, 81%). LCMS (method B): RT=2.84 min, [M+H]+=312.

reactant | 8-(4-cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 0.86 mmol, 0.28 g | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CC2)F | C18H16FN3O2
reactant | NaOH | 1.03 mmol, 1M, 1.03 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
product | 8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid | 0.22 g, 81% | C1(CC1)C1=CC(=C(C=C1)NC=1C=2N(C=CC1C(=O)O)C=NC2)F | C17H14FN3O2
